US09216967B2
2-{[3-(1-methylethyl)phenyl]oxy}-5-nitropyrimidine
To a solution of 3-(1-methylethyl)phenol (680 mg, 5 mmol, Aldrich) in acetonitrile (50 mL) were added 2-chloro-5-nitropyrimidine (800 mg, 5 mmol) and triethylamine (1.01 g, 10 mmol) and the resulting mixture was heated at reflux and stirred for 3 hours. The reaction mixture was concentrated under vacuum and water was added to the residue (80 mL). It was extracted with ethyl acetate (3 times 50 mL) and the combined organic layers were dried over sodium sulphate and evaporated to afford a brown oil, which was purified by silica gel chromatography (mobile phase: ethyl acetate: petroleum ether=0˜20%) to afford the title compound (900 mg).

reactant | 3-(1-methylethyl)phenol | 5 mmol, 680 mg | CC(C)C=1C=C(C=CC1)O | C9H12O
reactant | 2-chloro-5-nitropyrimidine | 5 mmol, 800 mg | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-{[3-(1-methylethyl)phenyl]oxy}-5-nitropyrimidine | 900 mg | CC(C)C=1C=C(C=CC1)OC1=NC=C(C=N1)[N+](=O)[O-] | C13H13N3O3
